US04271164
2,6-Dichlorophenylacetonitrile 8.1 g and 4-amino-2-methylpyrimidine-5-carboxaldehyde 6.9 g is added to a solution of 0.4 g of sodium metal in 60 ml of anhydrous ethanol. This mixture is heated at reflux for 3 hours. Upon cooling, the crude product precipitates and is collected by filtration. The solid is recrystallized from ethanol, with charcoal treatment, to give 5.5 g of 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine, mp 287°-289° C., which may occlude varying amounts of water, depending on the drying conditions.

reactant | 2,6-Dichlorophenylacetonitrile | 8.1 g | ClC1=C(C(=CC=C1)Cl)CC#N | C8H5Cl2N
reactant | 4-amino-2-methylpyrimidine-5-carboxaldehyde | 6.9 g | NC1=NC(=NC=C1C=O)C | C6H7N3O
reactant | sodium | 0.4 g | [Na] | Na
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | 5.5 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
